US08222446B2
110.2 g (1.0 mol) of resorcin (hereinafter abbreviated as RS) is dissolved in 110 g of methylisobutyl ketone (hereinafter abbreviated as MIBK) and partially neutralized by adding 26.7 g (0.204 mol) of an aqueous solution of 30.6 weight % of NaOH. Thereafter, the resulting mixture is cooled to 10° C. and added dropwise with 18.3 g (0.10 mol) of adipoyl chloride (hereinafter abbreviated as ADC) over 1 hour while maintaining at 10-15° C. to conduct esterification reaction, which is matured at the same temperature for 1 hour. b Thereafter, azeotropic dehydration is carried out under a reduced pressure (around 40 torr) while raising the temperature. The azeotropic dehydration is stopped at a time that an inner temperature comes to 65° C. after about 3 hours. The water content in the system is 0.3 weight %. Then, MIBK is distilled out under a reduced pressure (30 torr) while raising the temperature. The removal of MIBK is ended at a tome that the inner temperature comes to 120° C. after about 2 hours. In this case, the concentration of MIBK in the system is 5 weight %. After the oligomer decomposition is conducted by maturing at the same temperature for 2 hours, the reaction mixture is discharged into 540 g of water cooled to 5° C. over 30 minutes to separate out crystal. The crystal is filtered by filtration with a Buchner flask under a reduced pressure, washed with 540 g of water and dried under a reduced pressure at 60° C. for 15 hours to obtain 29.8 g of white-light yellowish powder (yield (crude) 90.3%/ADC). As an analytical result through HPLC, bis(3-hydroxyphenyl) adipate is 89/0 weight %, and an oligomer (dimer) is 7.4 weight %, and the starting resorcin is 3.1 weight %. The results are shown in Table 1.

reactant | resorcin | 1.0 mol, 110.2 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | NaOH | [OH-].[Na+]
reactant | adipoyl chloride | 0.10 mol, 18.3 g | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
reactant | water | O | H2O
solvent | methylisobutyl ketone | 110 g | CC(=O)CC(C)C | C6H12O
product | bis(3-hydroxyphenyl) adipate | C(CCCCC(=O)OC1=CC(=CC=C1)O)(=O)OC1=CC(=CC=C1)O | C18H18O6
